US06969716B2
5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine was coupled to 2-trifluoromethylphenylboronic acid by the method of Example 12 to give 3-(2,4-difluorophenyl)-5-(2-fluoro-2′-trifluoromethylbiphenyl-5-yl)-[1,2,4]triazine as a pale yellow solid: δH (400 MHz, CDCl3) 6.98-7.09 (2H, m), 7.35-7.42 (2H, m), 7.65 (2H, dd, J 7.4, 17.6 Hz), 7.84 (1H, d, J 7.8 Hz), 8.21 (1H, dd, J 2.2, 6.8 Hz), 8.28-8.36 (2H, m), 9.61 (1H, s); m/z (ES+) 432.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F | C15H7BrF3N3
reactant | 2-trifluoromethylphenylboronic acid | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
product | 3-(2,4-difluorophenyl)-5-(2-fluoro-2′-trifluoromethylbiphenyl-5-yl)-[1,2,4]triazine | FC1=C(C=CC(=C1)F)C=1N=NC=C(N1)C=1C=CC(=C(C1)C1=C(C=CC=C1)C(F)(F)F)F | C22H11F6N3
